US09382500B2
Step c): 4-(cyclopentylmethyl)benzene-1,2-diol
A solution 4-(cyclopentylmethyl)-1,2-dimethoxybenzene (7.1 g, 0.032 mol) in 43 ml of hydrobromic acid (48% in water) and 4 ml of acetic acid was heated at 120° C. during 24 hours. The reaction mixture was cooled to room temperature and quenched with 50 ml of NH4Cl solution. The aqueous phase extracted with three 100 ml portions of ether. The ethereal phase was washed with 50 ml of brine and dried over MgSO4. Filtration and concentration gave 6.0 g (97%) of a brownish solid.

reactant | 4-(cyclopentylmethyl)-1,2-dimethoxybenzene | 0.032 mol, 7.1 g | C1(CCCC1)CC1=CC(=C(C=C1)OC)OC | C14H20O2
solvent | hydrobromic acid | 43 ml | Br | BrH
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 4-(cyclopentylmethyl)benzene-1,2-diol | 6.0 g, 97% | C1(CCCC1)CC=1C=C(C(=CC1)O)O | C12H16O2
